US04604128
A solution of 5-(2-hydroxyphenyl)-4-ethoxycarbonyl-2-propionylcyclohexane-1,3-dione (100 mg) and p-toluenesulphonic acid (10 mg) in toluene (5 ml) was heated under reflux for 1 hour. The solution was washed with dilute aqueous sodium bicarbonate and the toluene layer was dried (MgSO4) and evaporated to give 8-propionyl-10,10a-dihydro-6H-dibenzo[b,d]-pyran-6,7,9-(6aH,8H)trione (80 mg) as a pale yellow oil, proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 0.8-1.3 (3H,m); 2.8-4.0 (6H,m); 6.9 (4H,bs); 18.1 (1H,bs).

reactant | 5-(2-hydroxyphenyl)-4-ethoxycarbonyl-2-propionylcyclohexane-1,3-dione | 100 mg | OC1=C(C=CC=C1)C1C(C(C(C(C1)=O)C(CC)=O)=O)C(=O)OCC | C18H20O6
reactant | p-toluenesulphonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 8-propionyl-10,10a-dihydro-6H-dibenzo[b,d]-pyran-6,7,9-(6aH,8H)trione | 80 mg | C(CC)(=O)C1C(C2C(C3=C(OC2=O)C=CC=C3)CC1=O)=O | C16H14O5
